US05051508
1-(2-Methylphenyl)-4-chloro-6-methylpyrrolo[3,2-c]quinoline (1.0 g) and 3-aminopropanol (3.0 g) were heated to 150° C. for 3 hours. Chromatography (silica gel, 2% methanolic ammonia in dichloromethane) and recrystallisation from ethyl acetate/petroleum ether yielded 1-(2-methylphenyl)-4-(3-hydroxypropylamino)-6-methylpyrrolo[3,2-c]quinoline (0.57 g), m.p. 135°-137°.

reactant | 1-(2-Methylphenyl)-4-chloro-6-methylpyrrolo[3,2-c]quinoline | 1.0 g | CC1=C(C=CC=C1)N1C=CC=2C(=NC=3C(=CC=CC3C21)C)Cl | C19H15ClN2
reactant | 3-aminopropanol | 3.0 g | NCCCO | C3H9NO
product | 1-(2-methylphenyl)-4-(3-hydroxypropylamino)-6-methylpyrrolo[3,2-c]quinoline | 0.57 g | CC1=C(C=CC=C1)N1C=CC=2C(=NC=3C(=CC=CC3C21)C)NCCCO | C22H23N3O
